US06096741
To a solution of 46.45 g (0.4 mol) of methyl acetoacetate in 200 ml of diethylether, 30.4 g (0.44 mol) of sodium nitrite was added and the mixture was cooled in an ice bath and treated dropwise with 40 ml (0.48 mol) of a concentrated hydrochloric acid. After stirring for 1 hour at room temperature, 200 ml of water was added and the mixture was extracted three times with 200 ml of diethylether. After washing with water and a saturated aqueous sodium chloride followed by drying over with anhydrous magnesium sulfate, the solvent was distilled off to obtain 50.09 g (yield: 86%) of a crude methyl 2-hydroxyiminoacetoacetate as a pale yellow oil.

reactant | methyl acetoacetate | 0.4 mol, 46.45 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | sodium nitrite | 0.44 mol, 30.4 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 0.48 mol, 40 ml | Cl | ClH
reactant | water | 200 ml | O | H2O
solvent | diethylether | 200 ml | C(C)OCC | C4H10O
product | methyl 2-hydroxyiminoacetoacetate | 50.09 g, yield: 86% | ON=C(C(=O)OC)C(=O)C | C5H7NO4
